US05604229
2-Acetamido-1,3-diacetoxy-2-(4-tetradecenyl)propane (450 mg) was dissolved in 27 ml of methanol and 9 ml of a 1N aqueous sodium hydroxide solution was added thereto. The mixture was refluxed under a nitrogen atmosphere for 8 hours. The reaction mixture was neutralized with hydrochloric acid and concentrated. Water was added to the concentrate and the mixture was subjected to chromatography using Sep-Pak(C18) (trade mark) and elution with methanol. The methanol eluate was concentrated to give 332 mg of pale yellow, oily 2-amino-2-(4-tetradecenyl)1,3-propanediol hydrochloride.

reactant | 2-Acetamido-1,3-diacetoxy-2-(4-tetradecenyl)propane | 450 mg | C(C)(=O)NC(COC(C)=O)(COC(C)=O)CCCC=CCCCCCCCCC | C23H41NO5
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 27 ml | CO | CH4O
product | 2-amino-2-(4-tetradecenyl)1,3-propanediol hydrochloride | Cl.NC(CO)(CO)CCCC=CCCCCCCCCC | InChI=1S/C17H35NO2.ClH/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-17(18,15-19)16-20;/h10-11,19-20H,2-9,12-16,18H2,1H3;1H
